US04673686
N-(1-cyclooctyl-2-pyrrolidinyl methyl)-2,4-dimethoxy-5-methyl-sulphonyl benzamide
13 g of 2,4-dimethoxy-5-methyl sulphonyl benzoic acid, 150 ml of acetone, 28 ml of water and 7 ml of triethylamine (density 0.726) are placed in a 250 ml flask fitted with an agitator, a thermometer, a condenser and a dropping funnel. The suspension is cooled to from 0° to +5° C., then 5.4 g of ethyl chloroformate is added drop by drop. The mixture is agitated for 45 minutes at room temperature and cooled to about 0° C., then 13.8 g of 1-cyclooctyl-2-aminomethyl-pyrrolidine is added drop by drop. There is complete solubilisation. The reaction medium is agitated at room temperature then left to stand. The solvents are evaporated under vacuum and the residue is dissolved in 100 ml of water and 20 ml of hydrochloric acid (density 1.18). The organic phase is extracted 3 times with 50 ml of methylene chloride, dried over magnesium sulphate, filtered and evaporated to dryness under vacuum. The residue is dissolved in 100 ml of water. The solution is filtered in the presence of carbon black and the filtrate made alkaline with 10 ml of ammonia. A gum is precipitated. This is extracted 3 times with 50 ml of methylene chloride, and the organic solution is washed twice with 50 ml of water and dried over magnesium sulphate. It is filtered, then the solvent is evaporated under vacuum and the residue re-crystallised in 200 ml of isopropanol. The crystals are filtered off, washed twice with a little iced isopropanol and dried in an oven at 50° C.

reactant | 2,4-dimethoxy-5-methyl sulphonyl benzoic acid | 13 g | COC1C(C(=O)O)=CC(=C(C1=S(=O)=O)OC)C | C10H12O6S
reactant | acetone | 150 ml | CC(=O)C | C3H6O
reactant | ethyl chloroformate | 5.4 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-cyclooctyl-2-aminomethyl-pyrrolidine | 13.8 g | C1(CCCCCCC1)N1C(CCC1)CN | C13H26N2
solvent | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
solvent | water | 28 ml | O | H2O
product | N-(1-cyclooctyl-2-pyrrolidinyl methyl)-2,4-dimethoxy-5-methyl-sulphonyl benzamide | C1(CCCCCCC1)N1C(CCC1)CNC(C=1C(C(C(=C(C1)C)OC)=S(=O)=O)OC)=O | C23H36N2O5S
